US08304419B2
Step F: 6-(acetylamino)-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide
HATU (0.086 g, 0.227 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.047 g, 0.151 mmol), 6-(acetylamino)-1H-indole-2-carboxylic acid (0.033 g, 0.151 mmol) and DIPEA (0.040 mL, 0.227 mmol) in DMF (1 mL). The mixture was stirred at RT for 2 h. The reaction mixture was diluted with ethyl acetate and water. The organic layer was washed with water and dried over sodium sulfate, and the solvent was evaporated. The resulting oil was triturated with methylene chloride:methanol. The resulting solid was collected by filtration and dried under vacuum to give the title compound (0.024 g, 31%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.46 (s, 1H), 9.85 (s, 1H), 9.01 (m, 1H), 7.91 (s, 1H), 7.80 (s, 1H), 7.40-7.53 (m, 4H), 7.35 (t, 1H), 7.11 (m, 2H), 4.51 (d, 2H), 2.00 (s, 3H). MS: m/z 511 (M+1).

reactant | HATU | 0.227 mmol, 0.086 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.151 mmol, 0.047 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 6-(acetylamino)-1H-indole-2-carboxylic acid | 0.151 mmol, 0.033 g | C(C)(=O)NC1=CC=C2C=C(NC2=C1)C(=O)O | C11H10N2O3
reactant | DIPEA | 0.227 mmol, 0.040 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-(acetylamino)-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide | 0.024 g, 31% | C(C)(=O)NC1=CC=C2C=C(NC2=C1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C25H17Cl2FN4O3
